US06642246B1
(R)-N-(1-Aza-bicyclo[2.2.2]oct-3-yl)[E-3-(2-imidazolylthio)propenamide]
Employing essentially the same procedure as that described in Example 1 above but substituting 3-(2-imidazolylthio)acrylic acid for the 3-(phenylthio)acrylic acid and purifying by chromatography on silica gel using ammoniated methanol/chloroform mixtures as the eluent resulted in formation of the title compound; MS (ES−) 279. (MH−).

reactant | 3-(2-imidazolylthio)acrylic acid | N1C(=NC=C1)SC=CC(=O)O | C6H6N2O2S
reactant | 3-(phenylthio)acrylic acid | C1(=CC=CC=C1)SC=CC(=O)O | C9H8O2S
product | (R)-N-(1-Aza-bicyclo[2.2.2]oct-3-yl)[E-3-(2-imidazolylthio)propenamide] | N12C[C@@H](C(CC1)CC2)NC(\C=C\SC=2NC=CN2)=O | C13H18N4OS
